US08466282B2
Methyl 5-(4-methoxybutyl)-2-oxo-1-phenyl-2,3-dihydro-1H-imidazole-4-carboxylate
Methyl 2-diazo-7-methoxy-3-oxoheptanoate (6.93 g) and 1-phenylurea (5.41 g) were suspended in toluene (30 ml)-1,2-dichloroethane (30 ml), rhodium tetraacetate (230 mg) was added and the mixture was stirred at 80° C. for 2 hr. After cooling to room temperature, trifluoroacetic acid (7.5 ml) was added and the reaction mixture was stirred at room temperature for 1 day. The reaction mixture was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (15:85-100:0) was concentrated under reduced pressure to give the object product (7.40 g).

reactant | Methyl 2-diazo-7-methoxy-3-oxoheptanoate | 6.93 g | [N+](=[N-])=C(C(=O)OC)C(CCCCOC)=O | C9H14N2O4
reactant | 1-phenylurea | 5.41 g | C1(=CC=CC=C1)NC(=O)N | C7H8N2O
reactant | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
reactant | trifluoroacetic acid | 7.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | rhodium tetraacetate | 230 mg | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Rh+4]
product | Methyl 5-(4-methoxybutyl)-2-oxo-1-phenyl-2,3-dihydro-1H-imidazole-4-carboxylate | 7.40 g | COCCCCC1=C(NC(N1C1=CC=CC=C1)=O)C(=O)OC | C16H20N2O4
